US20010014691A1
Methyl(3-(6-methyl(3-pyridyloxy))propyl)amine
The 3-chloro-1-(6-methyl(3-pyridyloxy))propane (2.78 g, 18.3 mmol) was dissolved in methanol (25 mL) and added to a 40 wt % aqueous solution of methylamine (50 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 100° C. (oil bath temperature) for 4 h. After cooling, the mixture was concentrated by rotary evaporation. Saturated NaCl solution (25 mL) was added to the residue. The pH was adjusted to 1 with 10% HCl solution and impurities were extracted with chloroform (4×25 mL). The pH of the aqueous phase was raised to 7 with 10% NaOH solution and other impurities were extracted with ether (4×30 mL). The aqueous layer was basified to pH 11 with 10% NaOH solution and extracted with ether (4×50 mL). The combined ether extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 1.224 g (45.3%) of an oil.

reactant | 3-chloro-1-(6-methyl(3-pyridyloxy))propane | 18.3 mmol, 2.78 g | ClCCCOC=1C=NC(=CC1)C | C9H12ClNO
reactant | methylamine | 50 mL | CN | CH5N
solvent | methanol | 25 mL | CO | CH4O
product | Methyl(3-(6-methyl(3-pyridyloxy))propyl)amine | 1.224 g, 45.3% | CNCCCOC=1C=NC(=CC1)C | C10H16N2O
